US05294622
EXAMPLE 238 8-Fluoro-4-[2-[4-(i-propyl)phenyl]ethoxy]quinoline
To a suspension of 0.96 g of sodium hydride in 10 mL of dry DMF was added 3.6 g of 4-chloro-8-fluoroquinoline. The mixture was cooled in an ice/water bath, and 3.3 g of 2-[4-(1-methylethyl)phenyl]ethyl alcohol was added. The mixture was stirred overnight, then diluted with ice and water. The pH was adjusted to 7, then the product was extracted into CH2Cl2. The CH2Cl2 layer was separated, filtered, and evaporated in vacuo. An azeotrope with xylene was formed to facilitate removal of residual DMF. The residue was chromatographically purified on a silica gel column, eluting with CH2Cl2, →5% EtOAc/CH2Cl2 →10% EtOAc/CH2Cl2. The fractions containing product were combined and evaporated to give an oil, which crystallized on adding ether. Recrystallization yielded 2.5 g of title product. M.P. 56°-60° C.

reactant | sodium hydride | 0.96 g | [H-].[Na+]
reactant | 4-chloro-8-fluoroquinoline | 3.6 g | ClC1=CC=NC2=C(C=CC=C12)F | C9H5ClFN
reactant | 2-[4-(1-methylethyl)phenyl]ethyl alcohol | 3.3 g | CC(C)C1=CC=C(C=C1)CCO | C11H16O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 8-Fluoro-4-[2-[4-(i-propyl)phenyl]ethoxy]quinoline | 2.5 g | FC=1C=CC=C2C(=CC=NC12)OCCC1=CC=C(C=C1)C(C)C | C20H20FNO
